US06114580
N-(5-bromo-2-pyridinyl)-S,S-dimethylsulfilimine;
A mixture containing about 17 mmol of N-5-bromo-2-pyridinyl-S,S-dimethylsulfilimine in about 30 mL of dichloromethane solution prepared as in Example 3A omitting the recovery step was diluted with 43 mL of dichloromethane and then 10.0 g (58 mmol) of 2-amino-5-bromopyridine, 5.5 g (70 mmol) of pyridine, and 14.2 g (74 mmol) of 4-methylbenzenesulfonyl chloride were added sequentially with stirring and cooling at -10° C. The mixture was allowed to warm to 20° C. with stirring. A white precipitate formed quickly. An additional 1.6 g (20 mmol) of pyridine was added and the mixture was allowed to stand for 3 days. Dichloromethane (25 mL) was added to dissolve all the solids and the resulting solution was washed with 150 mL of 0.1N aqueous hydrochloric acid. The aqueous layer was back-extracted with dichloromethane and the combined organic phases were dried over magnesium sulfate and concentrated by evaporation under reduced pressure. The yellow solid residue was recrystallized from 175 mL of acetonitrile and the resulting yellow solid (a first crop of 8.3 g and a second crop of 1.5 g) was recovered to obtain the title compound (41 percent of theory).

reactant | 2-amino-5-bromopyridine | 58 mmol, 10.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | pyridine | 70 mmol, 5.5 g | N1=CC=CC=C1 | C5H5N
reactant | 4-methylbenzenesulfonyl chloride | 74 mmol, 14.2 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | pyridine | 20 mmol, 1.6 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | about 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 43 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-(5-bromo-2-pyridinyl)-S,S-dimethylsulfilimine | 41 percent | BrC=1C=CC(=NC1)N=S(C)C | C7H9BrN2S
